US07169803B2
(S)-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indolin-1-yl)methyl 2-(1H-tetrazol-5-yl)acetate (If1)
(S)-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indolin-1-yl)methyl 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-tetrazol-5-yl)acetate (XIII1; n=1) (0.24 g, 0.38 mmol) was dissolved in CH3CN (20 mL), treated with aqueous HF (1 mL, 48% in H2O), and stirred at rt. until the starting material was completely consumed (as judged by HPLC). The mixture was neutralized with aqueous NaHCO3, and the CH3CN removed under reduced pressure. The aqueous layer was extracted with EtOAc, and the organic layer was then dried over MgSO4, filtered and concentrated. The isolated white solid was lyophilized to afford the title compund (0.14 g, 71% yield). 1H NMR (500 MHz, DMSO): δ 3.45 (s, 3 H), 5.79 (s, 2 H), 5.87 (d, J=10.96 Hz, 1 H), 5.91 (s, 2 H), 7.07 (d, J=8.85 Hz, 1 H), 7.47 (s, 2 H), 7.52 (dd, J=2.44, 8.85 Hz, 1 H), 7.72 (s, 2 H). LRMS: 500 (M). HRMS Calculated 498.8000 (M−H) found 498.8003.

reactant | (S)-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indolin-1-yl)methyl 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-tetrazol-5-yl)acetate | 0.38 mmol, 0.24 g | C[Si](CCOCN1N=NN=C1CC(=O)OCN1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)(C)C | C26H28ClF4N5O5Si
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | H2O | O | H2O
product | (S)-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indolin-1-yl)methyl 2-(1H-tetrazol-5-yl)acetate | N1N=NN=C1CC(=O)OCN1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O | C20H14ClF4N5O4
